US04153699
(RS)-2-Hydroxymethylindoline (29.8 g) is dissolved in a mixture of 34 N sulphuric acid (11.5 cc) and water (60 cc). The mixture is heated whilst distilling the water under reduced pressure (10 mm Hg), the heating bath being raised gradually to 160° C., which temperature is maintained for 2 hours. (RS)-2-Hydroxysulphonyloxymethylindoline (45.8 g) is thus obtained in the form of white crystals.

reactant | (RS)-2-Hydroxymethylindoline | 29.8 g | OCC1NC2=CC=CC=C2C1 | C9H11NO
reactant | sulphuric acid | 34 N, 11.5 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | 60 cc | O | H2O
product | (RS)-2-Hydroxysulphonyloxymethylindoline | 45.8 g | OS(=O)(=O)OCC1NC2=CC=CC=C2C1 | C9H11NO4S
